US07932272B2
Next, to a solution of iminodicarboxylic acid di-tert-butyl ester (2.12 g, 8.76 mmol) in N,N-dimethylformamide (13 mL) was added sodium hydride (0.39 g, 9.86 mmol, 60% in oil), the solution was stirred at 60° C. for 6 hours, 1-benzyloxy-3-chloromethyl-benzene (1.0 g, 4.30 mmol) was added, and the solution was further stirred at 60° C. for 4 hours. The reaction solution was allowed to room temperature, then, dichloromethane and water were added for partitioning, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated, then, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1), and (3-benzyloxybenzyl)iminodicarboxylic acid di-tert-butyl ester (691 mg, 39%) was obtained as a pale yellow oil.

reactant | iminodicarboxylic acid di-tert-butyl ester | 8.76 mmol, 2.12 g | C(C)(C)(C)OC(=O)NC(=O)OC(C)(C)C | C10H19NO4
reactant | sodium hydride | 9.86 mmol, 0.39 g | [H-].[Na+]
reactant | 1-benzyloxy-3-chloromethyl-benzene | 4.30 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC(=CC=C1)CCl | C14H13ClO
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 13 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (3-benzyloxybenzyl)iminodicarboxylic acid di-tert-butyl ester | 691 mg, 39% | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC1=CC(=CC=C1)OCC1=CC=CC=C1 | C24H31NO5
